US05175175
1-octen-4-ol;
The Schiff Base of Ethyl Vanillin and Methyl Anthranilate

reactant | Ethyl Vanillin | O=CC1=CC(OCC)=C(O)C=C1 | C9H10O3
reactant | Methyl Anthranilate | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
product | 1-octen-4-ol | C=CCC(CCCC)O | C8H16O
